US08471005B2
5-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-nicotinamide; compound with trifluoroacetic acid
The titled compound was prepared in analogous fashion as Example 522 using N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide, N-phenylbis(trifluoromethanesulphonimide) and 5-amino-nicotinamide to give 5-[7-(3-tert-butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-nicotinamide; compound with trifluoroacetic acid as a yellow lyophilate (61.6, 41% yield). LCMS (E/I+) 465.99 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 10.04 (s, 1H), 9.24 (s, 1H), 9.12 (s, 1H), 8.68 (s, 1H), 8.56 (s, 1H), 8.53 (m, 3H), 9.19 (s, 1H), 7.99 (s, 1H), 7.84 (d, 1H, J=7.8 Hz), 7.75 (t, 1H, J=7.80 Hz), 7.69 (s, 1H), 7.34 (d, 1H, J=4.8 Hz), 7.09 (d, 1H, J=4.8 Hz), 1.16 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | N-phenylbis(trifluoromethanesulphonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 5-amino-nicotinamide | NC=1C=NC=C(C(=O)N)C1 | C6H7N3O
product | 5-[7-(3-tert-butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-nicotinamide; compound with trifluoroacetic acid | FC(C(=O)O)(F)F.C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC=2C=NC=C(C(=O)N)C2 | InChI=1S/C22H23N7O3S.C2HF3O2/c1-22(2,3)28-33(31,32)18-6-4-5-14(10-18)19-8-7-17-13-25-21(27-29(17)19)26-16-9-15(20(23)30)11-24-12-16;3-2(4,5)1(6)7/h4-13,28H,1-3H3,(H2,23,30)(H,26,27);(H,6,7)
